US04609396
2-(4-Hydroxyphenoxy)-3-methylquinoxaline
A solution of 12.5 g (0.05 mole) borontribromide in 100 cc methylene chloride was added, over a period of 40 minutes, to a well stirred, cold (-62° C.) solution of 17.1 g 2-(4-benzyloxyphenoxy)-3-methylquinoxaline (0.05 mole) in 400 cc methylene chloride. When the addition was complete, the temperature of the reaction was allowed to rise slowly (2 hours) to room temperature. The reaction mixture was then poured into 1 liter of water and an additional 500 cc of methylene chloride was added. The mixture was stirred vigorously for 40 minutes and the insoluble solid was filtered. Crystallization from an ethanol-water mixture (1:1) gave 6.4 g of product, m.p. 175°-178° C.

reactant | 2-(4-benzyloxyphenoxy)-3-methylquinoxaline | 0.05 mole, 17.1 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=NC3=CC=CC=C3N=C2C)C=C1 | C22H18N2O2
reactant | water | 1 liter | O | H2O
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 cc | C(Cl)Cl | CH2Cl2
product | 2-(4-Hydroxyphenoxy)-3-methylquinoxaline | 6.4 g | OC1=CC=C(OC2=NC3=CC=CC=C3N=C2C)C=C1 | C15H12N2O2
